US04775223
((+)-2-butoxypropanol)
2.0 g of LiAlH4 was added to 62 ml of ether and the mixture was stirred for 3 hours. To the mixture was added dropwise 12.7 g of (-)-ethyl-2-butoxypropionate in the same manner as in Example 1, and the mixture was stirred for 15 minutes. Then, 50 ml of water and 50 ml of 10% H2SO4 aqueous solution were added thereto. The ther layer was separated, dried with MgSO4 and filtrated. Ether was distilled off toobtain the objective product at an yield of 7.4 g. The optical rotation [α]D24° was +24.4°.

reactant | LiAlH4 | 2.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ether | 62 ml | CCOCC | C4H10O
reactant | (-)-ethyl-2-butoxypropionate | 12.7 g | C(C)OC(C(C)OCCCC)=O | C9H18O3
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
solvent | water | 50 ml | O | H2O
product | (+)-2-butoxypropanol | C(CCC)OC(CO)C | C7H16O2
